US08431607B2
(4S,5S)-3-(4-chlorophenyl)-4-(3-methoxyphenyl)-5-((5-phenyl-2H-tetrazol-2-yl)methyl)oxazolidin-2-one
(4S,5R)-3-(4-Chlorophenyl)-5-(hydroxymethyl)-4-(3-methoxyphenyl)oxazolidin-2-one (40 mg, 0.12 mmol) and phenyltetrazole (17 mg, 0.12 mmol) are dissolved in DCM (1 mL), cooled to 0° C. and are then subsequently treated with triphenylphosphine (29 mg, 0.11 mmol) and diisopropylazodicarboxylate (0.024 mL, 0.12 mmol). The mixture is allowed to stir to room temperature overnight and is then purified by flash chromatography (4 g Redisep cartridge, 10-30% Ethyl acetate-hexanes) to give the title compound. 1H NMR (acetone-d6, 400 MHz) δ 8.05-8.03 (m, 2H), 7.54-7.50 (m, 3H), 7.47-7.43 (m, 2H), 7.32 (t, J=7.9 Hz, 1H), 7.30-7.24 (m, 2H), 7.09 (t, J=2.08 Hz, 1H), 7.05-7.03 (app d, J=7.8 Hz, 1H), 6.90 (ddd, J=8.3, 2.6, 0.9 Hz, 1H), 5.72 (d, J=5.1 Hz, 1H), 5.50 (dd, J=14.7, 8.7 Hz, 1H), 5.43 (dd, J=14.7, 10.6 Hz, 1H), 5.12-5.08 (m, 1H), 3.76 (s, 3H); HPLC-MS calculated C24H20ClN5O3 (M+H+) 462.1, found 462.1.

reactant | (4S,5R)-3-(4-Chlorophenyl)-5-(hydroxymethyl)-4-(3-methoxyphenyl)oxazolidin-2-one | 0.12 mmol, 40 mg | ClC1=CC=C(C=C1)N1C(O[C@H]([C@@H]1C1=CC(=CC=C1)OC)CO)=O | C17H16ClNO4
reactant | phenyltetrazole | 0.12 mmol, 17 mg | C1(=CC=CC=C1)C1=NN=NN1 | C7H6N4
reactant | triphenylphosphine | 0.11 mmol, 29 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.12 mmol, 0.024 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (4S,5S)-3-(4-chlorophenyl)-4-(3-methoxyphenyl)-5-((5-phenyl-2H-tetrazol-2-yl)methyl)oxazolidin-2-one | ClC1=CC=C(C=C1)N1C(O[C@H]([C@@H]1C1=CC(=CC=C1)OC)CN1N=C(N=N1)C1=CC=CC=C1)=O | C24H20ClN5O3
